US06660744B1
A solution of (+)-pseudoephedrine (0.037 g, 0.224 mmol) in ethylene glycol dimethyl ether (0.75 mL) was treated with a solution of n-butyllithium (2.5 M in hexanes, 0.060 mL, 0.150 mmol). After 20 min, this solution was transferred via cannula into a solution of ethyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate (0.040 g, 0.074 mmol) in N,N-dimethylfornamide (0.75 mL). The resulting solution was stirred at 50° C. for 15 h. It was then cooled to ambient temperature and partitioned between methanol/dichloromethane (1:9, 50 mL), and water (15 mL). The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 11.88-12.65 min) afforded N1-[(1R,2S)-2-hydroxy-1-methyl-2-phenylethyl]-N1-methyl-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide as an off-white solid (0.010 g, 0.015 mmol): RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersi1HS C18, 250×4.6 mm column) Rt 9.63 min; MS: (MH)+ 658.

reactant | (+)-pseudoephedrine | 0.224 mmol, 0.037 g | C[C@@H]([C@H](C1=CC=CC=C1)O)NC | C10H15NO
reactant | n-butyllithium | 0.150 mmol, 2.5 M, 0.060 mL | C(CCC)[Li]
reactant | ethyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate | 0.074 mmol, 0.040 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)OCC | C21H17Cl2FN6O4S
solvent | ethylene glycol dimethyl ether | 0.75 mL | COCCOC | C4H10O2
product | N1-[(1R,2S)-2-hydroxy-1-methyl-2-phenylethyl]-N1-methyl-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide | 0.015 mmol, 0.010 g | O[C@H]([C@@H](C)N(C(CN1N=C(C=2C1=NC=NC2N)C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)=O)C)C2=CC=CC=C2 | C29H26Cl2FN7O4S
